US05373002
To a solution of p-nitrobenzyl (1R, 5S, 6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (8.92 g, 15 mmol) in acetonitrile (600 ml), N,N-diisopropylethylamine (10.7 ml, 61.5 mmol) was added under cooling with ice and (2S, 4S)-2-[N-(2-hydroxyethyl)piperidin-4-yl]-4-mercaptopyrrolidine dihydrochloride (4.80 g, 15.8 mmol) was further added in limited amount. After the mixture was stirred at the same temperature for 19 hours, the reaction solution was concentrated to a volume of 300 ml and stirred under cooling with ice for 2 hours. Precipitates were collected by filtration and washed with acetonitrile, followed by drying to obtain p-nitrobenzyl (1R, 5S, 6S)-6-[(R)-1-hydroxyethyl]-2-[(2S, 4S)-2-[N-(2-hydroxyethyl)piperidin-4-yl]pyrrolidin-4-ylthio]-1-methyl-1-carbapen-2-em-3-carboxylate (4.77g, yield: 55.4%).

reactant | p-nitrobenzyl (1R, 5S, 6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 15 mmol, 8.92 g | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O10P
reactant | N,N-diisopropylethylamine | 61.5 mmol, 10.7 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2S, 4S)-2-[N-(2-hydroxyethyl)piperidin-4-yl]-4-mercaptopyrrolidine dihydrochloride | 15.8 mmol, 4.80 g | Cl.Cl.OCCN1CCC(CC1)[C@H]1NC[C@H](C1)S
solvent | acetonitrile | 600 ml | C(C)#N | C2H3N
product | p-nitrobenzyl (1R, 5S, 6S)-6-[(R)-1-hydroxyethyl]-2-[(2S, 4S)-2-[N-(2-hydroxyethyl)piperidin-4-yl]pyrrolidin-4-ylthio]-1-methyl-1-carbapen-2-em-3-carboxylate | 4.77g, yield: 55.4% | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@H]2C[C@H](NC2)C2CCN(CC2)CCO)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C28H38N4O7S
